US04018922
A solution of 108 g of propyl bromide in 250 ml of ether was added dropwise to a refluxing mixture of 19.2 g of magnesium in 100 ml of ether and then a solution of 46.6 g of 8-benzyl-1,4-dioxa-8-aza-spiro [4,5] decane in 500 ml of benzene was added in increments. The ether was evaporated off and then cooled and hydrolyzed with a saturated aqueous ammonium chloride solution. The benzene phase was decanted and the aqueous phase was extracted with ether. The ether phase was washed with water until neutral, dried over sodium sulfate and the solvents removed under reduced pressure. The residue (B.p. = 129° C at 0.1mm/Hg) was rectified to obtain 28 g of 2-(1-benzyl-4-propyl-4-piperidyloxy)-ethanol as a yellowish oil. The product was dissolved in 250 ml of ether and 13 ml of a 5N hydrogen chloride solution in ether were added thereto. The product was vacuum filtered and crystallized from isopropanol and dried in vacuo to obtain 12.9 g of 2-(1-benzyl-4-propyl-4-piperidyloxy)-ethanol hydrochloride in the form of colorless crystals melting at 196° C.

reactant | propyl bromide | 108 g | C(CC)Br | C3H7Br
reactant | magnesium | 19.2 g | [Mg] | Mg
reactant | 8-benzyl-1,4-dioxa-8-aza-spiro [4,5] decane | 46.6 g | C(C1=CC=CC=C1)N1CCC2(OCCO2)CC1 | C14H19NO2
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-benzyl-4-propyl-4-piperidyloxy)-ethanol | 28 g | C(C1=CC=CC=C1)N1CCC(CC1)(OCCO)CCC | C17H27NO2
